US20010014694A1
B. 4,6-Diphenoxy-2-(methylthio)-pyrimidine-5-carboxylic acid
n-BuLi (1.0 M, 1.2 mmol) was added to a stirred solution of 4,6-diphenoxy-2-(methylthio)pyrimidine (298 mg, 1.0 mmol) in THF (2 ml) at −78° C. The reaction mixture was stirred for 2 hours and warmed up to 0° C. Dry ice (5 pieces) was added in small pieces over 10 minutes and the reaction was warmed to room temperature for 30 minutes. Dilute HCl was added and the mixture was extracted with EtOAc. The combined organic extract was dried over MgSO4, filtered and evaporated in vacuo to give a yellow solid that was recrystallized from ethyl acetate/hexanes to give a yellow solid (243 mg, 71% yield), m.p. 97-98° C.

reactant | n-BuLi | 1.2 mmol, 1.0 M | [Li]CCCC
reactant | 4,6-diphenoxy-2-(methylthio)pyrimidine | 1.0 mmol, 298 mg | O(C1=CC=CC=C1)C1=NC(=NC(=C1)OC1=CC=CC=C1)SC | C17H14N2O2S
reactant | Dry ice | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4,6-Diphenoxy-2-(methylthio)-pyrimidine-5-carboxylic acid | 243 mg, 71% yield | O(C1=CC=CC=C1)C1=NC(=NC(=C1C(=O)O)OC1=CC=CC=C1)SC | C18H14N2O4S
